US06433175B1
1-(7-Chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene
A stirred solution of 7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indole-9-carboxaldehyde (1.0 g, 4.6 mmol) and ammonium acetate (0.4 g, 5.2 mmol) in nitroethane (10 mL) was heated to 100° C. for 1 h, cooled to room temperature, diluted with methanol (30 mL), cooled to 0° C., and filtered. The filter-cake was recrystallised (toluene) to give the product as yellow needles (0.58 g, 46%): mp 162-1623° C.; Found: C, 60.68; H, 4.67; N, 9.98%. C14H13ClN2O2 requires: C, 60.77; H, 4.73; N, 10.12%.

reactant | 7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indole-9-carboxaldehyde | 4.6 mmol, 1.0 g | ClC1=CC=2C(=C3N(C2C=C1)CCC3)C=O | C12H10ClNO
reactant | ammonium acetate | 5.2 mmol, 0.4 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 10 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | methanol | 30 mL | CO | CH4O
product | 1-(7-Chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene | 0.58 g, 46% | ClC1=CC=2C(=C3N(C2C=C1)CCC3)C=C(C)[N+](=O)[O-] | C14H13ClN2O2
